US07094801B2
Ex-76B: To a suspension of 2-(2,4-dimethoxy-phenyl)-3H-imidazo[4,5-b]pyridine (0.44 g, 1.7 mmol) in 20 ml of CH2Cl2, 1,1-dichlorodimethyl ether (0.55 g, 4.8 mmol) was added. The mixture was cooled to 0° C. with a water-ice bath, and 7 ml (7 mmol) of TiCl4 (1.0 m in CH2Cl2) was added dropwise. The mixture was stirred at 0° C. for 2 hrs, then room temperature for overnight. The reaction mixture was poured into ice-water and the precipitate was filtered to give 0.31 g (63%) of 5-(3H-imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-benzaldehyde as a white solid. 1H-NMR (DMSO-d6) δ 10.22 (s, 1H), 8.67 (s, 1H), 8.56 (d, J=5 Hz, 1H), 8.44 (d, J=8 Hz, 1H), 7.57–7.61 (m, 1H), 6.97 (s, 1H), 4.19 (s, 3H), 4.06 (s, 3H). HMRS (EI) calc. for C15H13N3O3: 283.0957; found: 283.0952.

reactant | 2-(2,4-dimethoxy-phenyl)-3H-imidazo[4,5-b]pyridine | 1.7 mmol, 0.44 g | COC1=C(C=CC(=C1)OC)C1=NC=2C(=NC=CC2)N1 | C14H13N3O2
reactant | 1,1-dichlorodimethyl ether | 4.8 mmol, 0.55 g | COC(Cl)Cl | C2H4Cl2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 7 mmol, 7 ml | Cl[Ti](Cl)(Cl)Cl
product | 5-(3H-imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-benzaldehyde | 0.31 g, 63% | N1=C(NC2=NC=CC=C21)C=2C(=CC(=C(C=O)C2)OC)OC | C15H13N3O3
